US06110962
(R)-2-[2,6-Dibromo-4-(6-carboxymethoxy-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxyl-3-phenyl-propionic acid
To a solution of (R)-2-[2,6-dibromo-4-(6-carboxymethoxy-benzo [b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-phenyl-propionic acid, methyl ester (0.436 g, 0.594 mmol) in tetrahydrofuran (9 mL) and methanol (3 mL) was added an aqueous solution of potassuim hydroxide (1 N, 2.37 mL, 2.37 mmol, 4 eq) dropwise at room temperature. After stirring 3.5 hours the solvents were removed and the residue was combined with water. The suspension was acidified with 10% aqueous hydrochloric acid and diethyl ether was added. The biphasic mixture was shaken well before the layers were separated. The organic phase was washed with water and concentrated. The residue was triturated with petroleum ether and dried in vacuo to provide the title compound as a white solid (0.366 g, 87%): mp 110-120° C.; [a]25/D =+49.620 (10.076 mg/mL, methanol); NMR (DMSO-d6): δ13.21 (broad s, 2 H), 8.40 (d, J=8 Hz, 1H), 8.03 (d, J=8 Hz, 1H), 7.74 (dd, J=2, 8 Hz, 2 H), 7.68 (ddd, J=8, 7, 1 Hz, 1 H), 7.57 (ddd, J=8, 7, 1 Hz, 1H), 7.52 - 7.45 (m, 2 H), 7.43 - 7.38 (m, 2 H), 7.37 -7.11 (m, 2 H), 7.10-7.20 (m, 2 H), 6.69 (d, J=8Hz, 1H), 5.30 (t, J=7 Hz, 1 H), 4.90 (s, 2 H), 3.41 (d, J=7 Hz, 2 H); MS (+FAB): [M+], 2 bromine isotope pattern, 704 (9%), 706 (22%), 708 (22%); Anal. Calc. for C33212Br2O6S: C, 56.11, H, 3.14, N, 0.00. Found: C, 55.93, H, 3.28, N, 0.09.

reactant | (R)-2-[2,6-dibromo-4-(6-carboxymethoxy-benzo [b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-phenyl-propionic acid, methyl ester | 0.594 mmol, 0.436 g | BrC1=C(O[C@@H](C(=O)OC)CC2=CC=CC=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)OCC(=O)O)Br | C34H24Br2O6S
reactant | hydroxide | 2.37 mmol, 1 N, 2.37 mL, 4 eq | [OH-]
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | 2,6-Dibromo-4-(6-carboxymethoxy-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxyl-3-phenyl-propionic acid | 0.366 g, 87% | BrC1=C(OC(C(=O)O)CC2=CC=CC=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)OCC(=O)O)Br | C33H22Br2O6S
